US06867221B2
Synthesis of 1-(tert-butoxycarbonyl)-4-(4-butoxyphenylamino)piperidine
1-(tert-butoxycarbonyl)-4-piperidone (5.00 g) and 4-butoxyaniline (3.95 g) was treated in the same manner as described in Preparation Example 37 to give brown powder of the title compound.

reactant | 1-(tert-butoxycarbonyl)-4-piperidone | 5.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 4-butoxyaniline | 3.95 g | C(CCC)OC1=CC=C(N)C=C1 | C10H15NO
product | 1-(tert-butoxycarbonyl)-4-(4-butoxyphenylamino)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)OCCCC | C20H32N2O3
